US05041454
To a stirred solution of 4 parts of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(1-pyrrolidinyl)butyl]-4-piperidinyl]benzamide in 20 parts of acetic acid were added 0,89 parts of acetic acid anhydride. Upon complete addition, stirring was continued overnight at room temperature. The reaction mixture was poured into water and the whole was treated with ammonium hydroxide while cooling. The product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was solidified in a mixture of 2,2'-oxybispropane and a few drops of acetonitrile. The solid product was filtered off and crystallized from acetonitrile. After cooling to 0° C., the product was filtered off and dried in vacuo at 40° C., yielding 1.9 parts (42.8%) of cis-4-(acetylamino)-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(1-pyrrolidinyl)butyl]-4-piperidinyl]benzamide hemihydrate; mp. 149.7° C. (compound 114).

reactant | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(1-pyrrolidinyl)butyl]-4-piperidinyl]benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(N2CCCC2)=O)OC)C=C1Cl)OC | C22H33ClN4O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | cis-4-(acetylamino)-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(1-pyrrolidinyl)butyl]-4-piperidinyl]benzamide hemihydrate | 42.8% | O.C(C)(=O)NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(N2CCCC2)=O)OC)C=C1Cl)OC.C(C)(=O)NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(=O)N2CCCC2)OC)C=C1Cl)OC | InChI=1S/2C24H35ClN4O5.H2O/c2*1-16(30)26-20-14-21(33-2)17(13-18(20)25)24(32)27-19-8-12-28(15-22(19)34-3)9-6-7-23(31)29-10-4-5-11-29;/h2*13-14,19,22H,4-12,15H2,1-3H3,(H,26,30)(H,27,32);1H2/t2*19-,22+;/m00./s1
